US06248765B1
3-(1H-Imidazol-4-yl)propyl 2-phenylethyl ether
5 mmol of 3-(1-triphenylmethyl-1H-imidazol-4-yl)propane chloride, prepared from 3-(1-triphenylmethyl-1H-imidazol-4-yl)propanol with thionyl chloride, and 15 mmol of sodium 2-phenylethanolate are treated as described in Example 5.

reactant | 3-(1-triphenylmethyl-1H-imidazol-4-yl)propane chloride | 5 mmol | [Cl-].C1(=CC=CC=C1)C(N1C=NC(=C1)CCC)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | 3-(1-triphenylmethyl-1H-imidazol-4-yl)propanol | C1(=CC=CC=C1)C(N1C=NC(=C1)CCCO)(C1=CC=CC=C1)C1=CC=CC=C1 | C25H24N2O
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
reactant | sodium 2-phenylethanolate | 15 mmol | C1(=CC=CC=C1)CC[O-].[Na+]
product | 3-(1H-Imidazol-4-yl)propyl 2-phenylethyl ether | C1(=CC=CC=C1)CCOCCCC=1N=CNC1 | C14H18N2O
